US05055482
Fuming nitric acid (5 ml) was added to an ice-cooled solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethoxypyrazole (1.5g) in concentrated sulfuric acid (20 ml). The mixture was stirred at room temperature for 3 hours then poured into ice/water and extracted into dichloromethane (3×50 ml). The combined dichloromethane extracts were washed with water (30 ml), filtered through phase-separation paper and evaporated in vacuo. The resultant gum was purified by dry-column chromatography (eluant ether:hexane 1:3) t give 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethoxy-5-nitropyrazole (0.3g) as a yellow solid, m.p. 72.5°-74° C.

reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethoxypyrazole | 1.5g | C(#N)C1=NN(C=C1OC(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F5N3O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethoxy-5-nitropyrazole | 0.3g | C(#N)C1=NN(C(=C1OC(F)F)[N+](=O)[O-])C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H3Cl2F5N4O3
